US06638927B2
Preparation of 6-fluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamine
Over a solution of 6-fluorotetralone (6-fluoro-3,4-dihydro-1 H-naphthalen-2-one; 1 equivalent) and ammonium acetate (5 equivalents) in a 2:1 mixture of MeOH:THF (0.24 M), was carefully added NaCNBH3 (2 eq), and the reaction mixture was stirred at room temperature for 2 hours. Concentrated HCl was added at 0° C. until the pH was less than 2, and the MeOH was removed in vacuo. The residue was taken up in water and extracted with CHCl3 (2×). The aqueous solution was basified with solid KOH and extracted with CHCl3 (3×). The combined extracts were dried (MgSO4) and evaporated in vacuo to give the titled compound.

reactant | 6-fluorotetralone | 1 equivalent | FC=1C=C2CCCC(C2=CC1)=O | C10H9FO
reactant | ammonium acetate | 5 equivalents | C(C)(=O)[O-].[NH4+]
reactant | NaCNBH3 | 2 eq | [BH3-]C#N.[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 0.24 M | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 6-fluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamine | FC=1C=C2CCC(CC2=CC1)N | C10H12FN
